US04558134
In a reaction flask with condenser, mechanical stirrer, thermometer and dropping funnel were placed 53.4 g of 3,6-dichloro-2-pyridinecarbonitrile and 300 ml of DMSO. The mixture was chilled to about 10°-15° C. and then 19.8 g of ethanethiol was added. While maintaining the temperature at <20° C., 34.8 g of t-BuOK in 300 ml of THF was added in small portions. After the addition was complete, the reaction mixture was warmed to 20° C. and stirred for about 40 hrs. The reaction mixture was then poured onto about 2 kilograms (kg) of ice, stirred and filtered leaving a solid residue. The residue was washed with water, dissolved in CH2Cl2, dried over MgSO4, concentrated and diluted with hexane to give 19.0 g of 6-chloro-3-ethylthio-2-pyridinecarbonitrile. The filtrate was concentrated and separated on a Water's Prep LC 500 instrument using 15% ethyl acetate in hexane to give another 10.1 g of the same isomer. Total yield of 6-chloro-3-ethylthio-2-pyridinecarbonitrile was 29.1 g (46.5%), m.p. 79°-81° C. Further separation on the Prep LC 500 instrument gave a small amount of 3-chloro-6-ethylthio-2-pyridinecarbonitrile (m.p. 46°-48° C.) and 3,6-bis-ethylthio-2-pyridinecarbonitrile (m.p. 63°-64° C.).

reactant | 3,6-dichloro-2-pyridinecarbonitrile | 53.4 g | ClC=1C(=NC(=CC1)Cl)C#N | C6H2Cl2N2
reactant | DMSO | 300 ml | CS(=O)C | C2H6OS
reactant | ethanethiol | 19.8 g | C(C)S | C2H6S
reactant | t-BuOK | 34.8 g | CC(C)(C)[O-].[K+]
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 6-chloro-3-ethylthio-2-pyridinecarbonitrile | 19.0 g | ClC1=CC=C(C(=N1)C#N)SCC | C8H7ClN2S
